US07470809B2
Step f2) [2-(4-fluoro-benzyl)-phenyl]-acetic acid (Compound I)
[2-(4-fluoro-benzyl)-phenyl]-acetonitrile is suspended in acetic acid (0.5 L/mol), water (0.3 L/mol) and sulphuric acid (0.35 L/mol). After 5 hours at reflux, the mixture is cooled down, water (1.2 L/mol) and dichloromethane (0.3 L/mol) are added. The organic extract is washed with water (1.3 L/mol) and sodium hydroxide 50% (0.15 L/mol). After stirring for 20 min., the aqueous layer is separated and washed with CH2Cl2 (0.1 L/mol) which is discarded. The aqueous layer is acidified with concentrated hydrochloric acid (2 eq.). The mixture is stirred during 3 hours, the precipitate is then filtered off and washed with water (0.1 L/mol). Yield: 74%.

reactant | [2-(4-fluoro-benzyl)-phenyl]-acetonitrile | FC1=CC=C(CC2=C(C=CC=C2)CC#N)C=C1 | C15H12FN
reactant | water | O | H2O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | 2 eq. | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2-(4-fluoro-benzyl)-phenyl]-acetic acid | Yield: 74% | FC1=CC=C(CC2=C(C=CC=C2)CC(=O)O)C=C1 | C15H13FO2
